*D1N4148 Diyot Akým - Voltaj Grafiði

.model D1N4148 D(IS=5.84n  N=1.94  RS=.7017  XTI=3  EG=1.11  CJO=.95p 
+ M=.55  VJ=.75  FC=.5  BV=50  IBV=100u  TT=11.07n)


VIN 1 0 PULSE(0 5 0 0NS 0NS 500nS 10uS)
*VIN 1 0 DC 5
R1 2 0 10k
D1 1 2 D1N4148
*.CONTROL
*DC VIN -300 200 0.1
*PLOT -VIN#branch vs V(1)-V(2)
*.ENDC
.TRAN 0.1nS 2uS
.PLOT TRAN V(1) V(2)
.END